US07255874B1
N-(2-cyanopropyl)alanine tert-butyl ester.
To a solution of alanine tert-butyl ester hydrochloride (41.5 g, 228 mmol) in anhydrous dimethyl formamide (DMF, 35 mL) under argon was added triethylamine (35 mL) followed by 2-cyanopropionic acid (25 g, 252 mmol) and 1-hydroxybenzotriazole hydrate (HOBt, 40.5 g, 300 mmol). The resulting mixture was cooled to 0° C. and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC, 48.8 g, 255 mmol) was added. The mixture was stirred at 0° C. for 2 h followed by 12 h at 23° C. The solvent was removed in vacuo, and the resulting residue was suspended in 300 mL of ethyl acetate. The organic layer was extracted with saturated aqueous NaHSO4 and the precipitate that formed from the emulsion was filtered out. The organic layer was again extracted with saturated aqueous NaHCO3 and saturated aqueous NaCl, dried over anhydrous MgSO4 and concentrated to a viscous yellow oil. 1H NMR (CDCl3): δ 1.4 (dd, 3H, CH3—CH—NH—), 1.5 (s, 9H, (CH3)3), 1.6 (dd, 3H, CH3—CH—CN—), 3.5 (q, 1H, NH—CH—CO2Bu), 4.4 (m, 1H, CH3—CH—CN), 6.8 (s, 1H, NH).

reactant | alanine tert-butyl ester hydrochloride | 228 mmol, 41.5 g | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | 2-cyanopropionic acid | 252 mmol, 25 g | C(#N)C(C(=O)O)C | C4H5NO2
reactant | 1-hydroxybenzotriazole hydrate | 300 mmol, 40.5 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 255 mmol, 48.8 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethyl formamide | 35 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 35 mL | C(C)N(CC)CC | C6H15N
product | N-(2-cyanopropyl)alanine tert-butyl ester | C(C)(C)(C)OC([C@@H](NCC(C)C#N)C)=O | C11H20N2O2
